US07005443B1
Step A: 3-(2-(9-Fluorenylmethoxycarbonylamino)propyl)-1H-indazol-5ol
To a mixture of dioxane and water (4:1, 10 mL) was added 3-(2-aminopropyl)-1H-indazol-5-ol (0.10 g, 0.36 mmol), 9-fluorenylmethoxycarbonyl chloride (0.13 g, 0.54 mmol) and sodium bicarbonate (0.9 g, 0.54 mmol). The reaction mixture poured into dilute sodium bicarbonate and the resulting mixture extracted with ether. The combined organic extracts were dried (MgSO4) and concentrated to a residue that was purified by chromatography.

reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | 3-(2-aminopropyl)-1H-indazol-5-ol | 0.36 mmol, 0.10 g | NC(CC1=NNC2=CC=C(C=C12)O)C | C10H13N3O
reactant | 9-fluorenylmethoxycarbonyl chloride | 0.54 mmol, 0.13 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)Cl | C15H11ClO2
reactant | sodium bicarbonate | 0.54 mmol, 0.9 g | C([O-])(O)=O.[Na+]
solvent | water | 10 mL | O | H2O
product | 3-(2-(9-Fluorenylmethoxycarbonylamino)propyl)-1H-indazol-5ol | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(CC1=NNC2=CC=C(C=C12)O)C | C25H23N3O3
